US07544812B2
A solution of 4-[3-(4-methoxy-phenyl)-propyl]-3-methyl-1-(4-trifluoromethyl-benzyl)-imidazolidin-2-one (3.51 g, 8.63 mmol) in dry CH2Cl2 (60 mL), cooled to −78° C. and then treated dropwise with BBr3 (6.49 g, 25.9 mmol). The reaction was warmed 0° C. and stirred for 2 h under N2. The reaction mixture was diluted with water and extracted with CH2Cl2. The organic layer was dried (MgSO4), and the solvent removed in vacuo to give crude product that was purified by flash chromatography using 2:1 hexanes:acetone to afford 3.01 g (89%) 4-[3-(4-hydroxy-phenyl)-propyl]-3-methyl-1-(4-trifluoromethyl-benzyl)-imidazolidin-2-one. 1H NMR. MS (ES30) Calc'd for C21H24N2O2F3 (M+1) 393. Found m/z 393 (100%).

reactant | 4-[3-(4-methoxy-phenyl)-propyl]-3-methyl-1-(4-trifluoromethyl-benzyl)-imidazolidin-2-one | 8.63 mmol, 3.51 g | COC1=CC=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C | C22H25F3N2O2
reactant | BBr3 | 25.9 mmol, 6.49 g | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-[3-(4-hydroxy-phenyl)-propyl]-3-methyl-1-(4-trifluoromethyl-benzyl)-imidazolidin-2-one | 3.01 g, 89% | OC1=CC=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C | C21H23F3N2O2
